US08455477B2
Into a 3,000 ml 3-necked roundbottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of tert-butyl 2-(2-ethoxy-2-oxoethyl)pyrrolidine-1-carboxylate (119 g, 463 mmol) in dichloromethane (1,200 ml). The solution was cooled to −80° C. and diisobutylaluminum hydride (362 g, 510 mmol) was added dropwise, while maintaining an internal temperature of −80° C. (3 hours total addition time). The resulting solution was allowed to stir for 2 hours while the temperature was maintained at −80° C. The reaction mixture was then quenched by the adding 500 ml of methanol. After warming to ambient temperature, the mixture was washed with 1,000 ml of NaOH (20% w/w aqueous) and 6 times with 1,000 ml of water. The organic layer was dried over sodium sulfate, filtered and concentrated to afford tert-butyl 2-(2-oxoethyl)pyrrolidine-1-carboxylate, which was used without additional purification.

reactant | tert-butyl 2-(2-ethoxy-2-oxoethyl)pyrrolidine-1-carboxylate | 463 mmol, 119 g | C(C)OC(CC1N(CCC1)C(=O)OC(C)(C)C)=O | C13H23NO4
reactant | diisobutylaluminum hydride | 510 mmol, 362 g | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 1,200 ml | ClCCl | CH2Cl2
product | tert-butyl 2-(2-oxoethyl)pyrrolidine-1-carboxylate | O=CCC1N(CCC1)C(=O)OC(C)(C)C | C11H19NO3
